US04536517
[p-(Decyloxy)phenyl]glyoxal
A mixture of 11.56 g. of 4'-(decyloxy)acetophenone, 4.6 g. of selenium dioxide, 150 ml. of dioxane and 4 ml. of water was refluxed overnight, filtered through diatomaceous earth, washed with dioxane and the filtrate evaporated to dryness. The residue was triturated with water, dried and crystallized from 150 ml. of hot acetone giving the desired product as an off-white solid, m.p. 81°-83° C.

reactant | 4'-(decyloxy)acetophenone | C(CCCCCCCCC)OC1=CC=C(C=C1)C(C)=O | C18H28O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [p-(Decyloxy)phenyl]glyoxal | C(CCCCCCCCC)OC1=CC=C(C=C1)C(=O)C=O | C18H26O3
